US07329680B2
1.87 g (7.8 mmole) of 4-benzyl-2,6-dichloro-pyrimidine was dissolved in 15 mls of DMF. To this solution was added 1.08 g of glycine methyl ester HCl. Next 3.0 mls of triethyl amine was added dropwise and the reaction stirred was then heated to 70° C. for 3 hours. The reaction was diluted with 10 mls of H2O and extracted with two portions of EtOAc. The combined organic layers were washed with two portions of saturated NaCl solution, dried over MgSO4, filter and evaporated under reduced pressure to yield a crude oil. This material was chromatographed on silica gel with 10% Ethyl Acetate-90% Heptane as the eluent. (6-Benzyl-2-chloro-pyrimidin-4-ylamino)-acetic acid methyl ester (0.354 g, 20%) was isolated a clear oil.

reactant | 4-benzyl-2,6-dichloro-pyrimidine | 7.8 mmole, 1.87 g | C(C1=CC=CC=C1)C1=NC(=NC(=C1)Cl)Cl | C11H8Cl2N2
reactant | glycine methyl ester HCl | 1.08 g | Cl.COC(CN)=O
reactant | triethyl amine | 3.0 mls | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mls | CN(C)C=O | C3H7NO
solvent | H2O | 10 mls | O | H2O
product | (6-Benzyl-2-chloro-pyrimidin-4-ylamino)-acetic acid methyl ester | 0.354 g, 20% | COC(CNC1=NC(=NC(=C1)CC1=CC=CC=C1)Cl)=O | C14H14ClN3O2
